US06124308
Alkylation of 2-(2,3-dichlorophenyl)-4-fluoro-3-hydroxy-2-butenenitrile can suitably be achieved using ethyl iodide in dimethylformamide in the presence of potassium carbonate to afford crude 2-(2,3-dichlorophenyl)-3-ethoxy-4-fluoro-2-butenenitrile.

reactant | 2-(2,3-dichlorophenyl)-4-fluoro-3-hydroxy-2-butenenitrile | ClC1=C(C=CC=C1Cl)C(C#N)=C(CF)O | C10H6Cl2FNO
reactant | ethyl iodide | C(C)I | C2H5I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(2,3-dichlorophenyl)-3-ethoxy-4-fluoro-2-butenenitrile | ClC1=C(C=CC=C1Cl)C(C#N)=C(CF)OCC | C12H10Cl2FNO
